US07153855B2
To a solution of N,N″-di-tert-butoxycarbonyl-N′-(4-{[3-[2-(cyclopentylamino)-pyrimidin-4-yl]-2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridin-7-yl]amino}butyl)-guanidine (42 mg, 0.06 mmol) in dichloromethane (8 mL) was added trifluoroacetic acid (2 mL). The resultant solution was stirred for 8 hours and then concentrated in vacuo. The residue was dissolved in dichloromethane and saturated aqueous sodium bicarbonate was added. The organic layer was washed with brine. The aqueous layer was extracted with dichloromethane and the combined organics were dried over sodium sulfate. Filtration and concentration provided N-(4-{[3-[2-(cyclopentylamino)pyrimidin-4-yl]-2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridin-7-yl]amino}butyl)guanidine (10 mg, 33%) as a yellow solid. MS m/z 514 (M+1).

reactant | N,N″-di-tert-butoxycarbonyl-N′-(4-{[3-[2-(cyclopentylamino)-pyrimidin-4-yl]-2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridin-7-yl]amino}butyl)-guanidine | 0.06 mmol, 42 mg | C(C)(C)(C)OC(=O)NC(=NC(=O)OC(C)(C)C)NCCCCNC1=CC=CC=2N1N=C(C2C2=NC(=NC=C2)NC2CCCC2)C2=CC=C(C=C2)OC | C38H51N9O5
reactant | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
product | N-(4-{[3-[2-(cyclopentylamino)pyrimidin-4-yl]-2-(4-methoxyphenyl)pyrazolo[1,5-a]pyridin-7-yl]amino}butyl)guanidine | 10 mg, 33% | C1(CCCC1)NC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2NCCCCNC(=N)N)C2=CC=C(C=C2)OC | C28H35N9O
